US06855715B1
Ethyl hydroxyimino-pyridine-2-acetate
To a stirring solution of ethyl pyridine-2-acetate (12.6 g, 76.3 mmol) in acetic acid (19 mL) at 5° C. was added a solution of sodium nitrite (6.05 g, 87.7 mmol) in water (12 mL) at a rate sufficient to maintain the internal temperature below 15° C. After complete addition and an additional 30 min, an additional 30 mL of water was added. The resulting white precipitate was filtered, washed with water, saturated aqueous NaHCO3, and again with water. The solid was then dried under vacuum to give 14.1 g (95%) of the title compound.

reactant | ethyl pyridine-2-acetate | 76.3 mmol, 12.6 g | N1=C(C=CC=C1)CC(=O)OCC | C9H11NO2
reactant | sodium nitrite | 87.7 mmol, 6.05 g | N(=O)[O-].[Na+]
solvent | acetic acid | 19 mL | C(C)(=O)O | C2H4O2
solvent | water | 12 mL | O | H2O
solvent | water | 30 mL | O | H2O
product | Ethyl hydroxyimino-pyridine-2-acetate | 14.1 g, 95% | ON=C(C(=O)OCC)C1=NC=CC=C1 | C9H10N2O3
